US05998459
2-amino-3-cyano-4-methyl-5-(2-fluorophenyl)pyrrole (compound No. 1)
1-(2-Fluorophenyl)-1-acetamido-2-propanone (3.13 g) and malononitrile (1.49 g) were dissolved in methanol (15 ml) and the solution was stirred under ice-cooling. Then, 55% aqueous solution of potassium hydroxide was added to the above solution to adjust to pH 10. The reaction mixture was then warmed and stirred at 55-60° C. for 0.5 hour. After cooling, the reaction mixture was poured into iced water and the resulting crystals were collected by filtration. This crude crystalline product was recrystallized from methanol-water and, further, from benzene to provide the title compound as colorless crystals (0.72 g). m.p. 117-118° C.

reactant | 1-(2-Fluorophenyl)-1-acetamido-2-propanone | 3.13 g | FC1=C(C=CC=C1)C(C(C)=O)NC(C)=O | C11H12FNO2
reactant | malononitrile | 1.49 g | C(CC#N)#N | C3H2N2
reactant | potassium hydroxide | [OH-].[K+]
reactant | water | O | H2O
solvent | methanol | 15 ml | CO | CH4O
product | 2-amino-3-cyano-4-methyl-5-(2-fluorophenyl)pyrrole | 0.72 g | NC=1NC(=C(C1C#N)C)C1=C(C=CC=C1)F | C12H10FN3
